US04069381
1 g of tantalum-V-chloride was dissolved in 400 ml of glacial acetic acid and 50 ml of acetic acid anhydride. After saturation with propylene and the further introduction under pressure of about 10 atmospheres of propylene, 20 atmospheres of oxygen were additionally added and the mixture was heated to about 140° C. After cooling, the batch was distilled. 20 g of propylene glycol diacetate were formed.

reactant | propylene | C=CC | C3H6
reactant | oxygen | O=O | O2
reactant | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | propylene glycol diacetate | 20 g | C(C)(=O)OCC(C)OC(C)=O | C7H12O4
